US04612305
A mixture of 22.8 g (0.15 mol) of o-aminobenzohydroxamic acid, 50 ml of methanol and 27.2 g (0.2 mol) of orthocarbonic acid tetramethyl ester was boiled under reflux for 2 hours and was then cooled to 5° C. The product which had crystallized out was filtered off with suction. 17 g (60% of theory) of 2-methoxy-3-hydroxy-3,4-dihyro-4-oxo-quinazoline were obtained in the form of colorless crystals having a melting point of 220° C.

reactant | o-aminobenzohydroxamic acid | 0.15 mol, 22.8 g | NC1=C(C(=O)NO)C=CC=C1 | C7H8N2O2
reactant | orthocarbonic acid tetramethyl ester | 0.2 mol, 27.2 g | COC(OC)(OC)OC | C5H12O4
solvent | methanol | 50 ml | CO | CH4O
product | 2-methoxy-3-hydroxy-3,4-dihyro-4-oxo-quinazoline | 17 g, 60% | COC1=NC2=CC=CC=C2C(N1O)=O | C9H8N2O3
